US07148229B2
To a solution of [4-(tert-butoxycarbonyl-methyl-amino)-phenyl]-acetic acid methyl ester (prepared according to the procedure of Hay et al. as described in J. Chem. Soc. Perkin Trans I. 1999, 19, 2759) (2.68 mmol) in methanol (10 mL) was added 1.0M aqueous lithium hydroxide solution (13.7 mL) and the mixture heated to 50° C. for 35 mins. The reaction mixture was cooled in an ice bath then washed with ether (25 mL), acidified with 3.0M aqueous hydrochloric acid to pH=4 while stirring and cooling in an ice bath. The precipitate was isolated by filtration, washed with water and dried in vacuo to give [4-(tert-butoxycarbonyl-methyl-amino)-phenyl]-acetic acid as a colorless solid (70%).

reactant | [4-(tert-butoxycarbonyl-methyl-amino)-phenyl]-acetic acid methyl ester | COC(CC1=CC=C(C=C1)N(C)C(=O)OC(C)(C)C)=O | C15H21NO4
reactant | lithium hydroxide | 1.0M, 13.7 mL | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
product | [4-(tert-butoxycarbonyl-methyl-amino)-phenyl]-acetic acid | 70% | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)CC(=O)O)C | C14H19NO4
